US05380729
To 1-(diphenylphosphinyl)-1,1-diethoxymethane (20 g) in THF (600 mL)/ether (200 mL) at -95° C. was added lithium diisopropylamide (prepared from diisopropylamine (11.5 mL) and nBuLl (7.8 mL, 0.0788 mol), followed by acetone (9.6 mL). The mixture was stirred for 30 minutes, water (100 mL) was added and then after warming the mixture to room temperature K2CO3 was added (4 g). The mixture was extracted with ethyl acetate (2×200 mL), the combined organic layers were washed with brine and dried over Na2SO4. The solvent was removed in vacuo and the residue was purified by column chromatography on silica gel eluting with ethyl acetate/0.5% triethylamine to afford 1-(diphenylphosphinyl) -1-(1,1-dimethyl-1-hydroxymethyl)-1,1-diethoxymethane.

reactant | 1-(diphenylphosphinyl)-1,1-diethoxymethane | 20 g | C1(=CC=CC=C1)P(=O)(C(OCC)OCC)C1=CC=CC=C1 | C17H21O3P
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 11.5 mL | C(C)(C)NC(C)C | C6H15N
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 600 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
solvent | acetone | 9.6 mL | CC(=O)C | C3H6O
solvent | ether | 200 mL | CCOCC | C4H10O
product | 1-(diphenylphosphinyl) -1-(1,1-dimethyl-1-hydroxymethyl)-1,1-diethoxymethane | C1(=CC=CC=C1)P(=O)(C(OCC)(OCC)C(O)(C)C)C1=CC=CC=C1 | C20H27O4P
